US20010007031A1
8-Amino-5-(3,4-dichlorophenoxy)-6-methoxy-4-methylquinoline
To a mixture of 13 g of 5-(3,4-dichlorophenoxy)-6-methoxy-4-methyl-8-nitroquinoline and 800 mg of 10% Pd on carbon in 500 ml of ethanol, was added 20 ml of 98% hydrazene hydrate portionwise with stirring. After the addition was complete, the reaction mixture was refluxed for 6 hours. The reaction mixture was filtered while hot and evaporated. The residue was partitioned between water and ethyl acetate, the organic layer was washed with water, dried and evaporated to give 12.4 g of crystalline product which was used in next reaction without further purification.

reactant | 5-(3,4-dichlorophenoxy)-6-methoxy-4-methyl-8-nitroquinoline | 13 g | ClC=1C=C(OC2=C3C(=CC=NC3=C(C=C2OC)[N+](=O)[O-])C)C=CC1Cl | C17H12Cl2N2O4
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 800 mg | [Pd] | Pd
product | 8-Amino-5-(3,4-dichlorophenoxy)-6-methoxy-4-methylquinoline | 12.4 g | NC=1C=C(C(=C2C(=CC=NC12)C)OC1=CC(=C(C=C1)Cl)Cl)OC | C17H14Cl2N2O2
